US04727080
Preparation of ethyl 6-fluoro-7-(pyrrol-1-yl)-1-fluoroethyl-4-oxo-1,4-dihydroquinoline-3-carboxylate (step D)
A mixture of 3.2 g (0.011 mol) of ethyl 6-fluoro-7-(pyrrol-1-yl)-4-hydroxyquinoline-3-carboxylate and 4 g (2.5×0.011 mol) of potassium carbonate in 20 ml of dimethylformamide is heated for 30 minutes at 60° C. and left to cool, 7 g (5×0.011 mol) of bromofluoroethane are added, the mixture is kept for 7 hours at 80° C., left to cool and poured into a water/ice mixture, and the precipitate formed is filtered off, washed with water and recrystallized from a dimethylformamide/water mixture (1:1) to give 2.35 g of a solid melting at 231°-234° C.

reactant | ethyl 6-fluoro-7-(pyrrol-1-yl)-4-hydroxyquinoline-3-carboxylate | 0.011 mol, 3.2 g | FC=1C=C2C(=C(C=NC2=CC1N1C=CC=C1)C(=O)OCC)O | C16H13FN2O3
reactant | potassium carbonate | 0.011 mol, 4 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromofluoroethane | 0.011 mol, 7 g | BrC(C)F | C2H4BrF
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | ethyl 6-fluoro-7-(pyrrol-1-yl)-1-fluoroethyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 2.35 g | FC=1C=C2C(C(=CN(C2=CC1N1C=CC=C1)C(C)F)C(=O)OCC)=O | C18H16F2N2O3
